US03950437
Five-neck flasks having a volume of 500 ml and provided with a stirrer, a reflux condenser, a sampling tube, a test specimen inlet and a thermometer were charged with 108.1g (1.0 mol) of paracresol and a different kind of peracid stabilizer as the catalyst shown in Table 1. Each flask was placed in a constant temperature bath kept at a temperature indicated in Table 1. Into the flask contents, 7.61g (0.1 mol) of peracetic acid in the form of about 35 weight% acetone solution was introduced through a micro-feeder over 20 minutes. Within 75 hours after the start of the addition of the peracetic acid, the contents of the flask were subjected to distillation under reduced pressure to obtain a fraction of 4-methyl-1,2-dihydroxybenzene having a boiling point of 124 - 125°C/6 mmHg. The results of this reaction are shown in the following table.

reactant | paracresol | C1=CC(=CC=C1O)C | C7H8O
reactant | peracetic acid | 0.1 mol, 7.61g | C(C)(=O)OO | C2H4O3
solvent | acetone | CC(=O)C | C3H6O
product | 4-methyl-1,2-dihydroxybenzene | CC1=CC(=C(C=C1)O)O | C7H8O2
